US07906517B2
4-{2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butanoic acid (46 mg) is dissolved in ethanol (1 ml) and thereto is added 1N-aqueous sodium hydroxide solution (60 μl) and the reaction solution is concentrated under reduced pressure to give 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butanoic acid sodium salt (46 mg). MS (m/z): 744 [M−Na]−

reactant | 4-{2-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butanoic acid | 46 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)OC(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C35H32F9N3O5
reactant | sodium hydroxide | 60 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butanoic acid sodium salt | 46 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)[O-])CC2=C(C=CC(=C2)OC(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C35H32F9N3O5.Na/c1-20(2)22-6-9-30(50-3)29(14-22)28-8-7-26(52-35(42,43)44)13-23(28)19-47(32-45-16-27(17-46-32)51-10-4-5-31(48)49)18-21-11-24(33(36,37)38)15-25(12-21)34(39,40)41;/h6-9,11-17,20H,4-5,10,18-19H2,1-3H3,(H,48,49);/q;+1/p-1
